US07417060B2
To a mixture of (2R)-2-[6-(acetylamino)-3-pyridyl]-2-[[tert-butyl(dimethyl)silyl]oxy]ethyl 4-methylbenzenesulfonate (3.50 g), (2-(4-bromophenyl)ethyl]-amine (3.01 g) and dimethyl sulfoxide (1.75 ml) was added N,N-diisopropylethylamine (1.31 ml) and the mixture was stirred at 80° C. for 24 hours. After cooling to room temperature, the mixture was diluted with ethyl acetate (35 ml) and water (35 ml), and the organic layer was separated. The organic layer was washed with water (35 ml×2) and brine (35 ml), and dried over magnesium sulfate. Filtration followed by evaporation gave a yellow paste (5.36 g) which was chromatographed on silica gel (eluent: hexane/ethyl acetate) to give N-[5-[(1R)-2-[[2-(4-bromophenyl)ethyl]-amino]-1-[[tert-butyl(dimethyl)silyl]oxy]ethyl]-2-pyridyl]acetamide (3.33 g) as a colorless paste.

reactant | (2R)-2-[6-(acetylamino)-3-pyridyl]-2-[[tert-butyl(dimethyl)silyl]oxy]ethyl 4-methylbenzenesulfonate | 3.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](O[Si](C)(C)C(C)(C)C)C=1C=NC(=CC1)NC(C)=O | C22H32N2O5SSi
reactant | (2-(4-bromophenyl)ethyl]-amine | 3.01 g | BrC1=CC=C(C=C1)CCN | C8H10BrN
reactant | dimethyl sulfoxide | 1.75 ml | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 1.31 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 35 ml | O | H2O
product | N-[5-[(1R)-2-[[2-(4-bromophenyl)ethyl]-amino]-1-[[tert-butyl(dimethyl)silyl]oxy]ethyl]-2-pyridyl]acetamide | 3.33 g | BrC1=CC=C(C=C1)CCNC[C@H](O[Si](C)(C)C(C)(C)C)C=1C=CC(=NC1)NC(C)=O | C23H34BrN3O2Si
